US03959292
Heating a solution of 7.6 g of 3-nitrobenzaldehyde, 5.0 g of acetylacetone and 9.2 g of 3-pyrrolidino-3-aminoacrylic acid ethyl ester in 50 ml of ethanol for 2 hours yields 2-pyrrolidino-6-methyl-4-(3-nitrophenyl)-5-acetyl-4,5-dihydropyridine-3-carboxylic acid ethyl ester of melting point 130°C (isopropanol/ether). Yield: 44% of theory.

reactant | 3-nitrobenzaldehyde | 7.6 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | acetylacetone | 5.0 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | 3-pyrrolidino-3-aminoacrylic acid ethyl ester | 9.2 g | C(C)OC(C=C(N)N1CCCC1)=O | C9H16N2O2
reactant | isopropanol ether | C(C)(C)O.CCOCC
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-pyrrolidino-6-methyl-4-(3-nitrophenyl)-5-acetyl-4,5-dihydropyridine-3-carboxylic acid ethyl ester | Yield: 44% | C(C)OC(=O)C1=C(N=C(C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(C)=O)C)N1CCCC1 | C21H25N3O5
